US07291631B2
To a solution of 3,5-difluoro-pyridine-2-carbonitrile (0.440 g, 3.14 mmol) (Niewoehner, U. et al. PCT Int. Appl. (2001), WO 2001068647) in dry CH2Cl2 (20 mL) cooled at −78° C., was added DIBAL-H (1.0 M in CH2Cl2, 3.2 mL, 3.2 mmol). After the mixture was stirred a t−78° C. for 1 h, aqueous HCl (3 N, 10 mL) was added, and the mixture was warmed to room temperature. Saturated aqueous NaHCO3 (20 mL) was added, and the mixture was extracted with CH2Cl2 (3×20 mL). The extracts were combined and dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (CH2Cl2), affording afford 3,5-difluoro-pyridine-2-carbaldehyde as a colorless crystalline solid (0.0880 g, 20%). 1H NMR (CDCl3) δ 7.32-7.39 (m, 1H), 8.53 (d, 1H, J=2.4 Hz), 10.16 (s, 1H).

reactant | 3,5-difluoro-pyridine-2-carbonitrile | 3.14 mmol, 0.440 g | FC=1C(=NC=C(C1)F)C#N | C6H2F2N2
reactant | DIBAL-H | 3.2 mmol, 1.0 M, 3.2 mL | CC(C)C[AlH]CC(C)C
reactant | HCl | 3 N, 10 mL | Cl | ClH
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3,5-difluoro-pyridine-2-carbaldehyde | 0.0880 g, 20% | FC=1C(=NC=C(C1)F)C=O | C6H3F2NO
